US04770988
(i) Synthesis of 5-Hydroxy-6-Nitro-3,4-Dihydrocarbostyril
In 110 ml of acetic anhydride was dissovled 25 g of 5-hydroxy-3,4-dihydrocarbostyril, and to the solution was added dropwise a mixture of 12 g of fuming nitric acid and 75 ml of acetic acid at 5° C. After stirring at 5° C. for 2 hours, 20 g of ice was added to the reaction mixture, and the precipitated crystals were collected. The crystals were suspended in a 3N sodium hydroxide aqueous solution, followed by filtration. The filtrate was neutralized with hydrochloric acid, and the precipitated crystals were collected by filtration, washed with water, and dried to obtain 22 g of the named compound.

reactant | 5-hydroxy-3,4-dihydrocarbostyril | 25 g | OC1=C2CCC(NC2=CC=C1)=O | C9H9NO2
reactant | nitric acid | 12 g | [N+](=O)(O)[O-] | HNO3
reactant | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 110 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 5-Hydroxy-6-Nitro-3,4-Dihydrocarbostyril | 22 g | OC1=C2CCC(NC2=CC=C1[N+](=O)[O-])=O | C9H8N2O4
